US05260318
3.0 g (13.6 mmol) of 1-(4-nitrophenyl)-4-piperidone and 2.0 g (13.6 mmol) of N-(4-methoxybenzyl)-N-methylamine were reacted in a similar manner to Example 1. 3.5 g of 4-(N-(4-methoxybenzyl)-N-methylamino)-1-(4-nitrophenyl)piperidine were obtained. Melting point 144°-145° C.

reactant | 1-(4-nitrophenyl)-4-piperidone | 13.6 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | N-(4-methoxybenzyl)-N-methylamine | 13.6 mmol, 2.0 g | COC1=CC=C(CNC)C=C1 | C9H13NO
product | 4-(N-(4-methoxybenzyl)-N-methylamino)-1-(4-nitrophenyl)piperidine | 3.5 g | COC1=CC=C(CN(C)C2CCN(CC2)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H25N3O3
